US05795887
N-Isopropyl-N-(4-methoxy-phenyl)-2-[2-oxo-3-(3-phenyl-ureido)-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl]-acetamide
According to process A, a solution of 175 mg of 2-(3-amino-2-oxo-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide dihydrobromide (0.283 mmol), prepared as in Intermediate 31, in 3 mL of methylene chloride was treated with 98.5 μL of triethylamine (0.706 mmol) and 33.8 μL of phenyl isocyanate (0.311 mmol). After stirring under nitrogen for 20 min., the reaction mixture was diluted with methylene chloride and washed with aqueous potassium carbonate (5% w/v). The phases were separated and the organic layer was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to a residue. The residue was triturated with 5 mL of acetonitrile and the resulting slurry was heated to reflux under nitrogen. After stirring for 20 min., the slurry was cooled to ambient temperature, filtered and washed with cold acetonitrile. The product was combined again with 3 mL of acetonitrile and brought to reflux. After stirring for 30 min., the slurry was cooled to ambient temperature, filtered and washed with cold acetonitrile. The product was dried under high vacuum to provide 95 mg of the title compound as a white crystalline solid. 1H NMR (300 MHz, d6-DMSO) -- =9.06 (b, 1H), 8.68 (m, 2H), 7.93 (d, 1H, J=8.0), 7.72 (m, 1H), 7.53 (m, 3H), 7.37 (m, 4H), 7.26 (m, 4H), 7.07 (m, 2H), 6.94 (m, 1H), 5.31 (d, 1H, J=8.3), 4.72 (m, 1H), 4.29 (d, 1H, J=16.4), 4.16 (d, 1H, J=16.4), 3.81 (s, 3H), 0.96 (d, 6H, J=6.1); MS (ESI) [M+H]+ =577.

reactant | 2-(3-amino-2-oxo-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide dihydrobromide | 0.283 mmol, 175 mg | Br.Br.NC1N=C(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2
reactant | triethylamine | 0.706 mmol, 98.5 μL | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.311 mmol, 33.8 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-[2-oxo-3-(3-phenyl-ureido)-5-pyridin-3-yl-2,3-dihydro-benzo[e][1,4]diazepin-1-yl]-acetamide | 95 mg | C(C)(C)N(C(CN1C(C(N=C(C2=C1C=CC=C2)C=2C=NC=CC2)NC(=O)NC2=CC=CC=C2)=O)=O)C2=CC=C(C=C2)OC | C33H32N6O4
